### PR TITLE
[Merged by Bors] - feat(Bivariate): aevalAeval and swap

### PR DESCRIPTION
**Pull request by xgenereux**
Add the `aeval` equivalent to `Bivariate.evalEval`.
This PR also introduces `Bivariate.swap`, the R-algebra automorphism given by `X ↦ Y` and `Y ↦ X`.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Bivariate.lean [hunk 1]
```diff
@@ -197,6 +197,51 @@ lemma eval_C_X_eval₂_map_C_X {p : R[X][Y]} :
...
+  `p : R[X][Y]` to `p(x,y)`. -/
+abbrev aevalAeval (x y : A) : R[X][Y] →ₐ[R] A :=
+  ((aeval x).restrictScalars R).comp
+    (letI := Polynomial.algebra; (aeval (R := R[X]) (C y)).restrictScalars R)
+
+theorem coe_aevalAeval_eq_evalEval (x y : A) : ⇑(aevalAeval x y) = evalEval x y := by
+  ext p; simp [aevalAeval, evalEval, aeval, eval, Algebra.ofId]
+
+/-- The R-algebra automorphism given by `X ↦ Y` and `Y ↦ X`. -/
+def Bivariate.swap : R[X][Y] ≃ₐ[R] R[X][Y] := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/Bivariate.lean:216]: Can you add the `simp` lemmas about the image of `X` and `Y`?

File: Mathlib/Algebra/Polynomial/Bivariate.lean [hunk 2]
```diff
@@ -197,6 +197,51 @@ lemma eval_C_X_eval₂_map_C_X {p : R[X][Y]} :
...
+  apply AlgEquiv.ofAlgHom (aevalAeval (Y : R[X][Y]) (C X)) (aevalAeval (Y : R[X][Y]) (C X))
+    <;> (ext n m <;> simp)
+
+/-- Evaluating `swap p` at `x`, `y` is the same as evaluating `p` at `y` `x`. -/
+theorem Bivariate.aevalAeval_swap (x y : A) (p : R[X][Y]) :
+    aevalAeval x y (swap p) = aevalAeval y x p := by
+  unfold swap aevalAeval at *
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/Bivariate.lean]: This `unfold` line tells me that we are missing some `apply` lemmas, can you please add them?

File: Mathlib/Algebra/Polynomial/Bivariate.lean [hunk 3]
```diff
@@ -197,6 +197,51 @@ lemma eval_C_X_eval₂_map_C_X {p : R[X][Y]} :
...
+  | add => aesop
+  | monomial n a =>
+    simp_all
+    induction a using Polynomial.induction_on' <;> aesop (add norm add_mul)
+
+attribute [local instance] Polynomial.algebra in
+theorem Bivariate.aveal_eq_map_swap (x : A) (p : R[X][Y]) :
+    aeval (C x) p = mapAlgHom (aeval x) (swap p) := by
+  simp only [swap, aevalAeval]
+  induction' p using Polynomial.induction_on' with p q hp hq
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/Bivariate.lean]: Can you use `induction` instead of `induction'`?

**Comment by xgenereux** [comment]
I added `Bivariate.swap_apply` as a simp lemma. I didn't mark `Bivariate.swap_X `, `Bivariate.swap_Y` and `Bivariate.swap_monomial_monomial` as simp lemma since they (mostly) get subsumed by `Bivariate.swap_apply`.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
